US09233974B2
To a solution of (2S,4S)-1-tert-butyl 2,4-dimethylpyrrolidine-1,2,4-tricarboxylate (9.56 g, 33.3 mmol) in THF (70 mL) at 0° C. (external temperature, ice bath) was added NaOH (1N aqueous, 33 mL, 33.3 mmol) dropwise over 15 min. The solution was stirred at 0° C. for 5 h before acidification with HCl (1N). The solution was extracted with EtOAc (3×). The combined organic layers were dried over Na2SO4 and concentrated. The crude oil was purified by silica gel chromatography (2% to 5% to 10% MeOH/CH2Cl2) to provide (3S,5S)-1-(tert-butoxycarbonyl)-5-(methoxycarbonyl)pyrrolidine-3-carboxylic acid (6.38 g, 70%).

reactant | (2S,4S)-1-tert-butyl 2,4-dimethylpyrrolidine-1,2,4-tricarboxylate | 33.3 mmol, 9.56 g | C[C@@]1(N(C[C@](C1)(C(=O)[O-])C)C(=O)OC(C)(C)C)C(=O)[O-]
reactant | NaOH | 33.3 mmol, 1N, 33 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | THF | 70 mL | C1CCOC1 | C4H8O
product | (3S,5S)-1-(tert-butoxycarbonyl)-5-(methoxycarbonyl)pyrrolidine-3-carboxylic acid | 6.38 g, 70% | C(C)(C)(C)OC(=O)N1C[C@H](C[C@H]1C(=O)OC)C(=O)O | C12H19NO6
